US04063023
A 2 liter flask, fitted with an overhead stirrer and a nitrogen inlet, was charged with 700 ml. of anhydrous ammonia. Calcium (29.0 g., 0.723 m.) was added carefully in portions. t-Butanol (25 ml., 0.266 m.) was added in one portion and 5-methyl-4-imidazolecarboxylic acid ethyl ester (50 g., 0.32 m.) was added in portions over 30 minutes. The blue solution was stirred for 40 minutes and methanol (120 ml.) added dropwise. Ammonium chloride (80.0 g., 1.48 m.) and isopropanol (800 ml.) were added and the ammonia removed. Hydrogen chloride gas was added (pH about 1) and the solids filtered off. The filtrate was concentrated to 100 ml. and acetone (500 ml.) was added. The product was collected and dried to give 4-hydroxymethyl-5-methylimidazole hydrochloride (23.0 g. of 65% pure material; yield 30%).

reactant | ammonia | N | H3N
reactant | Calcium | 29.0 g | [Ca] | Ca
reactant | 5-methyl-4-imidazolecarboxylic acid ethyl ester | 50 g | C(C)OC(=O)C=1N=CNC1C | C7H10N2O2
reactant | Ammonium chloride | 80.0 g | [Cl-].[NH4+]
solvent | isopropanol | 800 ml | C(C)(C)O | C3H8O
solvent | methanol | 120 ml | CO | CH4O
solvent | t-Butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | 4-hydroxymethyl-5-methylimidazole hydrochloride | 23.0 g, yield 30% | Cl.OCC=1N=CNC1C | InChI=1S/C5H8N2O.ClH/c1-4-5(2-8)7-3-6-4;/h3,8H,2H2,1H3,(H,6,7);1H
